US03950333
Reacting N-(2-pyrazinylmethyl)ethylenediamine with ethyl isothiocyanate by the procedure of Example 3 and chromatographing gives N-ethyl-N'-[2-(2-pyrazinylmethylamino)ethyl]thiourea. Reacting this thiourea with lead cyanamide by the procedure of Example 3 gives N-cyano-N'-ethyl-N"-[2-(2-pyrazinylmethylamino)ethyl]-guanidine.

reactant | N-(2-pyrazinylmethyl)ethylenediamine | N1=C(C=NC=C1)CNCCN | C7H12N4
reactant | ethyl isothiocyanate | C(C)N=C=S | C3H5NS
product | N-ethyl-N'-[2-(2-pyrazinylmethylamino)ethyl]thiourea | C(C)NC(=S)NCCNCC1=NC=CN=C1 | C10H17N5S
